US04349552
To a solution of 3-aminonorbornane-2-carboxylic acid (12.6 g.) in a mixture of water (100 ml.) and dioxane (100 ml.) were added triethylamine (12.2 g.) and 2-tert-butoxycarbonyloxyimino-2-phenylacetonitrile (16.2 g.). The mixture was stirred for 5 hours at ambient temperature and washed with ethyl acetate at pH 10 (each 250 ml., 2 times). The aqueous layer was adjusted to pH 2 with 10% aqueous hydrochloric acid. The acidified solution was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness under reduced pressure. The residue was pulverized with isopropyl ether to give 3-(N-tert-butoxycarbonylamino)norbornane-2-carboxylic acid (10.5 g.).

reactant | 3-aminonorbornane-2-carboxylic acid | 12.6 g | NC1C(C2CCC1C2)C(=O)O | C8H13NO2
reactant | triethylamine | 12.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-tert-butoxycarbonyloxyimino-2-phenylacetonitrile | 16.2 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | water | 100 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(N-tert-butoxycarbonylamino)norbornane-2-carboxylic acid | 10.5 g | C(C)(C)(C)OC(=O)NC1C(C2CCC1C2)C(=O)O | C13H21NO4
